US04812164
using 2-ethoxy-1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone and isobutyryl chloride with pyridine in diethyl ether there is obtained {5-[2-ethoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-2-chloro-4-fluorophenyl} isobutyrate, 1NMR (CDCl3, 400 MHz): 7.38 ppm (d,1H), 7.13 ppm (d,1H), 6.58 ppm (s,1H), 4.50 ppm (m,2H), 2.87 ppm (m,1H), 1.35 ppm (d,3H), 1.34 ppm (d,3H), 1.31 ppm (t,3H);

reactant | 2-ethoxy-1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone | C(C)OC=1N(C(C=C(N1)C(F)(F)F)=O)C1=C(C=C(C(=C1)O)Cl)F | C13H9ClF4N2O3
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | {5-[2-ethoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-2-chloro-4-fluorophenyl} isobutyrate | C(C(C)C)(=O)OC1=C(C=C(C(=C1)N1C(=NC(=CC1=O)C(F)(F)F)OCC)F)Cl | C17H15ClF4N2O4
